US05486466
A solution of 114 mg of t-butyl (4R,75)-12,14-diacetoxy-1,3,4,5,6,7,8,10-octahydro-4-methoxycarbonyl-11-methyl-6,10-dioxo -9,2,5-benzoxathiaazacyclododecine-7-carbamate in 2.4 ml of trifiuoroacetic acid was stirred at 0° C. for 30 minutes. The solution was poured onto a mixture of 20 ml of 0.5M aqueous sodium dihydrogenphosphate solution, 4.7 ml of 28% aqueous sodium hydroxide solution and crushed ice. The pH was adjusted to 9 by the addition of sodium hydroxide and the mixture was then extracted with methylene chloride. The organic layer was washed with brine, dried over sodium sulfate and evaporated in vacuo. The residue was dissolved in methylene chloride and crystallized by the addition of n-hexane to give methyl (4R,7S)-12,14-diacetoxy-7-amino-1,3,4,5,6,7,8,10-octahydro-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-4-carboxylate as a white powder.

reactant | t-butyl (4R,75)-12,14-diacetoxy-1,3,4,5,6,7,8,10-octahydro-4-methoxycarbonyl-11-methyl-6,10-dioxo -9,2,5-benzoxathiaazacyclododecine-7-carbamate | 114 mg | C(C)(=O)OC=1C=C(C2=C(C(OC[C@@H](C(N[C@@H](CSC2)C(=O)OC)=O)NC(=O)OC(C)(C)C)=O)C1C)OC(C)=O | C25H32N2O11S
reactant | sodium dihydrogenphosphate | 0.5M, 20 ml | P(=O)(O)(O)[O-].[Na+]
reactant | sodium hydroxide | 4.7 ml | [OH-].[Na+]
solvent | trifiuoroacetic acid | 2.4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | methyl (4R,7S)-12,14-diacetoxy-7-amino-1,3,4,5,6,7,8,10-octahydro-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-4-carboxylate | C(C)(=O)OC=1C=C(C2=C(C(OC[C@@H](C(N[C@@H](CSC2)C(=O)OC)=O)N)=O)C1C)OC(C)=O | C20H24N2O9S
